US06441239B1
(4-Trifluoromethoxyphenyl)acetonitrile
150 g of ethanol, 28 ml of water, and 31.5 g of sodium cyanide were initially charged, and 127.5 g of 4-bromomethyl-1-trifluoromethoxybenzene were added. The reaction mixture was stirred at 90° C. for 3.5 hours and then poured into 250 ml of water and extracted twice with 50 ml portions of dichloromethane. The combined organic phases were concentrated and the residue was distilled at 18 hPa. This gave 81.5 g of (4-trifluoromethoxyphenyl)acetonitrile as a colorless liquid (76.3% of theory) of b.p. 110-112° C.

reactant | ethanol | 150 g | C(C)O | C2H6O
reactant | sodium cyanide | 31.5 g | [C-]#N.[Na+]
reactant | 4-bromomethyl-1-trifluoromethoxybenzene | 127.5 g | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
solvent | water | 250 ml | O | H2O
solvent | water | 28 ml | O | H2O
product | (4-Trifluoromethoxyphenyl)acetonitrile | FC(OC1=CC=C(C=C1)CC#N)(F)F | C9H6F3NO
